Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cipro, Doxycycline, Cephaclor
 
Attending: ___
 
Chief Complaint:
Overdose, Seizure

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ hx anxiety/depression who presents after a 
polysubstance overdose. The patient reportedly had an ingestion 
around 11AM today of 21x300 mg gabapentin, 34 x 25-mg pills of 
amoxapine, and 6 pills of venlafaxine(although no bottle was 
found). The patient was taken to ___ where she was found 
to have tachycardia and myoclonic jerks. The patient reported 
SI, denies hallucinations/delusions. She had a head CT which was 
negative. Her EKG showed a QRS which increased from 99 to 108 
and the patient was started on a bicarbonate gtt. After arrival, 
she had a seizure and was given a total of 5 mg lorazepam with 
resolution of seizure. She received 12 mg cyproheptadine and was 
transferred to ___ for further management. Vitals prior to 
transfer were: 97.9 125/78, HR124,RR 27, 95% on 4L of O2.   
 
In the ED, initial vitals:  98.2 88 141/84 20 100%  
Patient was found to have brisk reflexes, increased tone, but no 
clonus.
Labs were notable for: 
WBC 9.4 H/H 11.1/34.6 Plt 202
Na 145 K 3.8 Cl 111 HCO3 24 BUN 10 Cr 1.1 
Lactate 1.1
Serum ASA, EtOH, APAP, benzo, Barb, TCA: Negative
Urine benzos, barbs, opiates, cocaine, amphetamines, methadone, 
oxycodone: Negative
Urinalysis was negative.

-EKG  showed SR, NANI, normal QRS (92), QT, no STEMI
Repeat EKG with QRS of 88.
EKG prior to transfer:
Intervals (QTc ___ Axes 
Rate PR QRS QT QTc P QRS T 
78   150 88 410 441 39 14 -5

On arrival to the MICU,  the patient is AAOx3 (but does not know 
the name of the hospital). She is intermittently dosing but 
appropriate, able to answer all questions. Pt reports having had 
been admitted to psych after pill overdose in ___. She 
currently endorses SI, denies visual or auditory hallucinations.

Review of systems:  
(+) Per HPI 
 
Past Medical History:
-Depression
-Anxiety
-Alcohol abuse
-Suicide attempt

 
Social History:
___
Family History:
Mother with ?depression, father passed away ___ from 
Alzheimer's.

 
Physical Exam:
ADMISSION EXAM:
Vitals: T 98.0 BP 130/77 HR 90 RR 22 100%RA 
GENERAL: Somnolent but arousable obese female in NAD, AAOx3 
HEENT: PERRL, pupils normal size, MMM, anicteric sclerae.
NECK: Supple
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused 
SKIN:  No rashes

DISCHARGE EXAM:
Vitals:  T 98.7  142/86  86  18  97%RA
Gen: NAD, walking around unit comfortably
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
Ext: warm, dry, no c/c/e
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop. Answers questions appropriately.
Psych: restricted, poor insight, poor judgement
GU: no foley, otherwise deferred

 
Pertinent Results:
ADMISSION LABS:
___ 07:45PM BLOOD WBC-9.4 RBC-3.73* Hgb-11.1* Hct-34.6 
MCV-93 MCH-29.8 MCHC-32.1 RDW-12.7 RDWSD-42.8 Plt ___
___ 07:45PM BLOOD Neuts-84.1* Lymphs-10.2* Monos-4.7* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-7.90* AbsLymp-0.96* 
AbsMono-0.44 AbsEos-0.02* AbsBaso-0.03
___ 07:45PM BLOOD Plt ___
___ 07:45PM BLOOD Glucose-111* UreaN-10 Creat-1.1 Na-145 
K-3.8 Cl-111* HCO3-24 AnGap-14
___ 07:45PM BLOOD ALT-15 AST-15 LD(LDH)-146 CK(CPK)-43 
AlkPhos-72 TotBili-0.2
___ 07:45PM BLOOD Calcium-7.9* Phos-3.8 Mg-2.1
___ 07:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:49PM BLOOD Lactate-1.1

EKG: 
___ Sinus rhythm with minor non-specific repolarization 
abnormalities. No previous 
tracing available for comparison.  
TRACING #1 

___ Sinus rhythm. Compared to the previous tracing there is 
no significant change. 
TRACING #6 

DISCHARGE LABS:
___ 04:39AM BLOOD WBC-7.9 RBC-3.69* Hgb-11.2 Hct-34.2 
MCV-93 MCH-30.4 MCHC-32.7 RDW-12.7 RDWSD-42.7 Plt ___
___ 07:10AM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-141 K-3.9 
Cl-105 HCO3-27 AnGap-13
___ 07:10AM BLOOD Albumin-3.8 Calcium-9.4 Phos-3.9 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ hx anxiety/depression who presents after a 
polysubstance overdose with toxidrome suggestive of likely TCA 
toxicity complicated by seizure, now improved and medically 
stable for discharge to inpatient psychiatric facility.

# Polysubstance overdose/suicide attempt: TCA overdose also with
gabapentin and venlafaxine. Initial evidence of TCA toxidrome 
with prolonged QRS, myoclonus and seizure. Seizures can also be 
seen in gabapentin withdrawal. Received 1 dose cyproheptadine at 
OSH for presumed serotonin syndrome. All symptoms and signs of 
overdose resolved prior to transfer from ICU to medical floor, 
where she remained stable, EKGs normal, and medically ready for 
discharge to inpatient psych facility. 

# Depression/anxiety/suicide attempt: Held all home medications 
per psych recs. ___ per psych with 1:1 sitter at all 
times. Discharge to inpatient psych facility per psych and BEST 
team. 

# Seizure: Likely in setting of overdose while at OSH, without 
recurrence as inpatient. No evidence of EtOH withdrawal, per 
patient has not had drink in over one month. 

# Reported history of hypertension: Held home lisinopril as 
largely normotensive during admission. 

Transitional Issues: 
# Communication: HCP: Mother ___ ___  
# Code: Full 
# Disposition: Medically clear for inpatient psych facility
- follow up with outpatient providers when ready for discharge 
from inpatient psych facility

>45 minutes spent on discharge day services, counseling, and 
coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Suicide attempt/tricyclic antidepressant/gabapentin/venlafaxine 
overdose
major depression, severe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after you were found 
unresponsive by your mother at home. You had a seizure at the 
outside hospital before coming to ___, probably because of the 
medication you took too much of. You were monitored closely in 
the ICU, then transferred to the floor and medically stable. You 
are being transferred to another facility to continue your 
psychiatric care. 
 
Followup Instructions:
___